US04478842
A solution of 5.9 g of p-mercaptobenzoic acid ethyl ester (prepared according to the procedure found in J. Chem. Soc., 1963, 1947-1954) in 30 ml of dimethylformamide is added dropwise to a slurry of 1.55 g of 50% sodium hydride (dispersion in mineral oil in 30 ml of dimethylformamide. This mixture is stirred at room temperature for 0.5 hour under nitrogen atmosphere. This solution is added dropwise to a solution of 9.78 g of 1-(2-methylsulfonyloxyethyl)-2-(3-pyridyl)-3-methylindole in 60 ml of dimethylformamide at -10°. This mixture is stirred at room temperature overnight and poured into 1 liter of ice-water. This is extracted several times with ether (ca 1 liter total). The ether extract is washed with water (3×200 ml), dried over MgSO4 and evaporated in vacuo yielding 1-[2-(4-ethoxycarbonylphenylthio)ethyl]-2-(3-pyridyl)-3-methylindole as an oil; NMR (CDCl3) confirms the structure.

reactant | p-mercaptobenzoic acid ethyl ester | 5.9 g | C(C)OC(C1=CC=C(C=C1)S)=O | C9H10O2S
reactant | sodium hydride | 1.55 g | [H-].[Na+]
reactant | 1-(2-methylsulfonyloxyethyl)-2-(3-pyridyl)-3-methylindole | 9.78 g | CS(=O)(=O)OCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C17H18N2O3S
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-ethoxycarbonylphenylthio)ethyl]-2-(3-pyridyl)-3-methylindole | C(C)OC(=O)C1=CC=C(C=C1)SCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C25H24N2O2S
